US03975535
6,7-Dimethoxy-2-thiaisocoumarin-3-carboxylic acid, mp. (EtOH) 300°-2°, (lit. mp. 306°-7°), (Found: C, 54.03; H, 3.80; S, 11.83, C12H10SO5 requires C, 54.13; H, 3.79; S, 12.04) was prepared from 5-(2'-carboxy-4',5'-dimethoxybenzylidene) rhodanine by an analogous procedure to that described in Example 12.

reactant | 5-(2'-carboxy-4',5'-dimethoxybenzylidene) rhodanine | C(=O)(O)C1=C(C=C2C(NC(S2)=S)=O)C=C(C(=C1)OC)OC | C13H11NO5S2
reactant | EtOH | CCO | C2H6O
product | 6,7-Dimethoxy-2-thiaisocoumarin-3-carboxylic acid | COC=1C=C2C=C(SC(=O)C2=CC1OC)C(=O)O | C12H10O5S
